US04956433
Bis(4-methylpiperazine-1-thiocarbonyl) disulfane
5 parts of N-methylpiperazine are reacted in 100 parts of water with 2 parts of sodium hydroxide and 4.2 parts of carbon disulfide and oxidized with 16.5 parts of potassium hexacyanoferrate(III). Obtained are 8.6 parts of the compound with 41.1% C, 6.5% H, and 15.7% N (calculated: 41.1% C, 6.3% H, 16.0% N, 36.6% S).

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbon disulfide | C(=S)=S | CS2
catalyst | potassium hexacyanoferrate(III) | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
product | Bis(4-methylpiperazine-1-thiocarbonyl) disulfane | CN1CCN(CC1)C(=S)SSC(=S)N1CCN(CC1)C | C12H22N4S4
